US08431695B2
Preparation of 7-(1-acetylpiperidin-4-yl)-5-[2-(cyclobutylmethyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine
In a manner similar to the procedure described for Example 369 and using 5-[2-(cyclobutylmethyl)-2H-indazol-6-yl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine and substituting acetyl chloride for 2-chloro-N,N-dimethylacetamide as starting materials, 48 mg, (62%) of the desired product was isolated. LC-MS [M+H]+=444.3, RT=2.37 min.

reactant | 5-[2-(cyclobutylmethyl)-2H-indazol-6-yl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | C1(CCC1)CN1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C23H27N7
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 7-(1-acetylpiperidin-4-yl)-5-[2-(cyclobutylmethyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 62% | C(C)(=O)N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2CCC2 | C25H29N7O
